US09029391B2
Methyl 4-[(3,4-dimethylphenyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate
To a solution of methyl 2-methyl-1-oxo-4-{[(trifluoromethyl)sulfonyl]oxy}-1,2-dihydro-3-isoquinolinecarboxylate (0.84 g, 2.3 mmol) and (3,4-dimethylphenyl)amine (0.362 g, 2.99 mmol) in 1,4-dioxane (25 mL) under nitrogen was added cesium carbonate (1.124 g, 3.45 mmol), dimethylbisdiphenylphosphinoxanthene (0.103 g, 0.172 mmol) and Pd(OAc)2 (0.026 g, 0.115 mmol) and the mixture was stirred at 100° C. for 16 hours. The mixture was diluted with diethyl ether, filtered through Celite and the filter cake was washed with diethyl ether. The crude product was purified on silica using EtOAc/hexanes 10-30% to provide the title compound as a yellow solid (0.59 g, 74%). 1H NMR (400 MHz, CDCl3) δ ppm 8.48 (dd, J=1.2, 5.9 Hz, 1 H), 7.69-7.52 (m, 3 H), 6.89 (d, J=8.2 Hz, 1 H), 6.55-6.29 (m, 2 H), 5.66 (s, 1 H), 3.86 (s, 3 H), 3.62-3.51 (m, 3 H), 3.57 (s, 4 H), 2.14 (s, 9 H), 2.24-2.07 (m, 6 H), 1.56 (s, 3 H);); ES-LCMS: 337.3 (M+1).

reactant | methyl 2-methyl-1-oxo-4-{[(trifluoromethyl)sulfonyl]oxy}-1,2-dihydro-3-isoquinolinecarboxylate | 2.3 mmol, 0.84 g | CN1C(C2=CC=CC=C2C(=C1C(=O)OC)OS(=O)(=O)C(F)(F)F)=O | C13H10F3NO6S
reactant | (3,4-dimethylphenyl)amine | 2.99 mmol, 0.362 g | CC=1C=C(C=CC1C)N | C8H11N
reactant | cesium carbonate | 3.45 mmol, 1.124 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylbisdiphenylphosphinoxanthene | 0.172 mmol, 0.103 g | CC1=C(C(=C(C=2CC3=CC=CC=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd(OAc)2 | 0.115 mmol, 0.026 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 4-[(3,4-dimethylphenyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 0.59 g, 74% | CC=1C=C(C=CC1C)NC1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)OC | C20H20N2O3
